
// Differential Operational Amplifier Characterization Testbench
// CMRR
simulator lang=spectre
global 0

// include model card
include "/home/shunqidai/Sizing/SizingDemoLinuxSpectre_integer_stdcell/smic018/models/spectre/ms018_v1p7_spe.lib" section=tt

parameters w1 = 5.8  l1 = 1.0 w2 = 10.2 l2 = 2.0  w3 = 34.2 l3 = 2.0  w4 = 23.0  l4 = 2.0	w5 = 38.2  l5 = 2.0   cc=4.3e-13   cr=39400.0 ib=1e-05

// Include the circuit
include    "/home/shunqidai/Sizing/SizingDemoLinuxSpectre_integer_stdcell/smic018/ckt_netlist/twoStageOpamp2.scs"

// the power supply 3.3 V and current bias
vdd    (dd  0)   vsource  dc=vdd     type=dc
ibias  (dd net7) isource  dc=ib    type=dc

// the input signal for dc and tran simulation
vin    (inn  out)   vsource   dc=0   	type=dc		mag=1
vip    (inp  cm)    vsource   dc=0   	type=dc		mag=1
vcm    (cm   0)     vsource   dc=vdd/2  type=dc	

// the circuit 
Xopamp (dd 0 inp inn net7 out)  diff_opamp
cl 	   (out 0) 					capacitor  c=cload

// Sprctre Analyses and Output Options
// Output Options
simulatorOptions options 
+    reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 
+    tnom=27 scalem=1.0 scale=1.0e-6 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 
+    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" 
+    checklimitdest=psf 

// Analyses
outac2 ac start=0.1 stop=100e9 dec=10 annotate=status 
saveOptions options save=allpub subcktprobelvl=2

// end of file

